US04165377
A suspension of 2-guanidino-4-(6-phthalimidohexyl)thiazole (4.2 g.) in methanol (30 ml.) and 10% w/v aqueous NaOH (10 ml.) was heated under reflux for 15 minutes. The pH of the mixture was then adjusted to 1 with concentrated HCl and the mixture heated under reflux for 30 minutes. The pH of the mixture was then adjusted to 12 with 10% w/v aqueous NaOH and the mixture heated under reflux for 15 minutes. The pH of the mixture was then adjusted to pH 1 with concentrated HCl and the mixture was heated under reflux for 30 minutes and then stirred at room temperature for 16 hours. The mixture was then evaporated to dryness in vacuo and the residue suspended in water and filtered to remove solids which were further washed with water. The combined aqueous filtrates were extracted several times with ethyl acetate, then with ether. The aqueous layer was evaporated to dryness and the residue extracted several times with ethanol. The combined ethanol extracts were evaporated to dryness, reextracted with ethanol and this extract filtered and evaporated to dryness to give 2-guanidino-4-(6-aminohexyl)thiazole dihydrochloride as a yellow foam which was used without further purification.

reactant | 2-guanidino-4-(6-phthalimidohexyl)thiazole | 4.2 g | N(C(=N)N)C=1SC=C(N1)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H21N5O2S
reactant | NaOH | 10 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2-guanidino-4-(6-aminohexyl)thiazole dihydrochloride | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CCCCCCN | InChI=1S/C10H19N5S.2ClH/c11-6-4-2-1-3-5-8-7-16-10(14-8)15-9(12)13;;/h7H,1-6,11H2,(H4,12,13,14,15);2*1H
